US07067534B1
N-(3-{1-[(5-CHLORO-3-METHYL-1-PHENYL-1H-PYRAZOL-4-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 5-chloro-3-methyl-1-phenyl-1H-pyrazole-4-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 451.2 (M+H)+.

reactant | 5-chloro-3-methyl-1-phenyl-1H-pyrazole-4-carbaldehyde | ClC1=C(C(=NN1C1=CC=CC=C1)C)C=O | C11H9ClN2O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[(5-CHLORO-3-METHYL-1-PHENYL-1H-PYRAZOL-4-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | ClC1=C(C(=NN1C1=CC=CC=C1)C)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C26H31ClN4O
